US06001159
Synthesis of 4-(11-hydroxyundecylmercapto)phenol
1.45 g of 85% potassium hydroxide was dissolved in 100 ml of ethanol at room temperature. 2.78 g of 4-mercaptophenol was then added to the above-prepared solution, and dissolved therein. To the above prepared reaction mixture, 5.0 g of 11-bromo-1-undecanol was added, and the reaction mixture was allowed to react for 3 hours under the condition that the ethanol was refluxed. The thus obtained reaction mixture was cooled to room temperature, and concentrated by use of a rotary evaporator. The concentrated reaction mixture was poured into 500 ml of water, followed by vigorous stirring. Thus, a white solid separated out. The resultant white solid was recrystallized from a mixed solvent of ethyl acetate and hexane, so that 4.5 g of 4-(11-hydroxyundecylmercapto) phenol was obtained.

reactant | potassium hydroxide | 1.45 g | [OH-].[K+]
reactant | 4-mercaptophenol | 2.78 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | 11-bromo-1-undecanol | 5.0 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | water | 500 ml | O | H2O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 4-(11-hydroxyundecylmercapto)phenol | OCCCCCCCCCCCSC1=CC=C(C=C1)O | C17H28O2S
